US04292317
2.45 g of 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid, 3.1 g of piperazine and 30 cm3 of pyridine were heated under reflux for 8 hours. The dihalogeno-acid went rapidly into solution; after 5 hours, a precipitate appeared which consisted principally of the hydrochloride of the reaction product. The solvent was evaporated off, the residue was taken up in 100 cm3 of water, and 20 cm3 of N sodium hyxroxide solution were then added to the mixture. The solution, which was slightly turbid, was brought to pH 7.5, by the addition of acetic acid. The precipitate was filtered off and suspended in 100 cm3 of water; the addition of 10 cm3 of N HCl led to almost total dissolution. A slight amount of insoluble material was removed by filtration. The solution was brought to pH 7.5 by the addition of N NaOH. The solid was filtered off and recrystallised from a mixture of DMF (1 volume) and methyl cellosolve (2 volumes). 1.32 g of 6-chloro-1-methyl-4-oxo-7-piperazinyl-1,4-dihydro-quinoline-3-carboxylic acid, m.p. 288° C., were obtained.

reactant | 6,7-dichloro-1-methyl-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid | 2.45 g | ClC=1C=C2C(C(=CN(C2=CC1Cl)C)C(=O)O)=O | C11H7Cl2NO3
reactant | piperazine | 3.1 g | N1CCNCC1 | C4H10N2
reactant | hydrochloride | Cl | ClH
solvent | pyridine | 30 cm3 | N1=CC=CC=C1 | C5H5N
product | 6-chloro-1-methyl-4-oxo-7-piperazinyl-1,4-dihydro-quinoline-3-carboxylic acid | 1.32 g | ClC=1C=C2C(C(=CN(C2=CC1N1CCNCC1)C)C(=O)O)=O | C15H16ClN3O3
